US07816020B2
In a 500-ml four-necked flask were placed 25.2 g (0.11 mole) of 1,3-diphenylpropanedione, 25.3 g (0.11 mole) of p-bromophenylhydrazine hydrochloride, and 234.7 g of toluene. The mixture was stirred at room temperature and 6.0 g (0.11 mole) of sodium methoxide was added in drops at room temperature. After the addition, the mixture was heated under reflux with stirring for three hours. Upon completion of the reaction, the reaction mixture was cooled to room temperature and a solid was recovered by filtration. The filtrate was concentrated under reduced pressure to dryness. To the residue was added 350 ml of methanol and the mixture was heated with stirring for one hour. Thereafter, the mixture was cooled to room temperature and a solid was recovered by filtration. The solid was washed with methanol and dried under reduced pressure to give 28.4 g of 1-(p-bromophenyl)-3,5-diphenylpyrazole.

reactant | 1,3-diphenylpropanedione | 0.11 mole, 25.2 g | C1(=CC=CC=C1)C(C(CC1=CC=CC=C1)=O)=O | C15H12O2
reactant | p-bromophenylhydrazine hydrochloride | 0.11 mole, 25.3 g | Cl.BrC1=CC=C(C=C1)NN
reactant | sodium methoxide | 0.11 mole, 6.0 g | C[O-].[Na+]
solvent | toluene | 234.7 g | C1(=CC=CC=C1)C | C7H8
product | 1-(p-bromophenyl)-3,5-diphenylpyrazole | 28.4 g | BrC1=CC=C(C=C1)N1N=C(C=C1C1=CC=CC=C1)C1=CC=CC=C1 | C21H15BrN2
